US09403798B2
(R)-4-(4-Fluorophenyl)-1,2,3,6-tetrahydropyridin-3-ol
To a 1,4-dioxane (4.5 mL)-water (2.5 mL) solution of the crude product of (R)-4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridin-3-yl pivalate synthesized in Reference Synthesis Example 132, lithium hydroxide monohydrate (229 mg, 5.45 mmol) was added and the resultant mixture was stirred at 115° C. for 3 hours. After completion of the reaction, water was added to the reaction solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=49/1→7/3) to obtain the title compound (640 mg, two step yield 74%).

reactant | 1,4-dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
reactant | water | 2.5 mL | O | H2O
reactant | (R)-4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridin-3-yl pivalate | C(C(C)(C)C)(=O)O[C@H]1CNCC=C1C1=CC=C(C=C1)F | C16H20FNO2
reactant | lithium hydroxide monohydrate | 5.45 mmol, 229 mg | O.[OH-].[Li+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-4-(4-Fluorophenyl)-1,2,3,6-tetrahydropyridin-3-ol | 640 mg, yield 74% | FC1=CC=C(C=C1)C=1[C@H](CNCC1)O | C11H12FNO
